US07994185B2
Step B: N-{3-[2-(1-Methylethyl)-5-(2-{[2-(methylsulfonyl)ethyl]amino}-4-pyrimidinyl)-1,3-thiazol-4-yl]phenyl}-2-thiophenesulfonamide
Following a procedure analogous to the procedure described in Example 1 using 2-aminoethyl-methyl-sulfone (258 mg, 2.096 mmol) and N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]phenyl}-2-thiophenesulfonamide (100 mg, 0.210 mmol) the title compound was obtained as a light yellow solid (20 mg, 17% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.49 (s, 1H) 8.07 (d, J=4.9 Hz, 1H) 7.82-7.92 (m, 1H) 7.46-7.52 (m, 1H) 7.37-7.46 (m, 1H) 7.28-7.36 (m, 1H) 7.12-7.25 (m, 3H) 7.04-7.12 (m, 1H) 6.04-6.14 (m, 1H) 3.55-3.69 (m, 2H) 3.30-3.37 (m, 3H) 2.97 (s, 3H) 1.32 (d, J=6.8 Hz, 6H). MS (ESI): 564.1[M+H]+.

reactant | 2-aminoethyl-methyl-sulfone | 2.096 mmol, 258 mg | NCCS(=O)(=O)C | C3H9NO2S
reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]phenyl}-2-thiophenesulfonamide | 0.210 mmol, 100 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)C)C=1C=C(C=CC1)NS(=O)(=O)C=1SC=CC1 | C20H17ClN4O2S3
product | N-{3-[2-(1-Methylethyl)-5-(2-{[2-(methylsulfonyl)ethyl]amino}-4-pyrimidinyl)-1,3-thiazol-4-yl]phenyl}-2-thiophenesulfonamide | CC(C)C=1SC(=C(N1)C=1C=C(C=CC1)NS(=O)(=O)C=1SC=CC1)C1=NC(=NC=C1)NCCS(=O)(=O)C | C23H25N5O4S4
